US05708033
A mixture of 2-chloro-4-fluorocinnamic acid (22.9 g, 0.11 mol) and platinum oxide hydrate (0.5 g, EM Scientific) in 95% ethanol (140 ml) was placed on a Parr hydrogenation apparatus. After the appropriate amount of hydrogen was taken up, the catalyst was filtered and the mixture was concentrated in vacuo to give 22.6 g (98%) of 3-(2-chloro-4-fluorophenyl)propanoic acid as a purple solid. This material was used without further purification.

reactant | 2-chloro-4-fluorocinnamic acid | 0.11 mol, 22.9 g | ClC1=C(C=CC(=O)O)C=CC(=C1)F | C9H6ClFO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 140 ml | C(C)O | C2H6O
catalyst | platinum oxide hydrate | 0.5 g | O.[Pt]=O
product | 3-(2-chloro-4-fluorophenyl)propanoic acid | 22.6 g, 98% | ClC1=C(C=CC(=C1)F)CCC(=O)O | C9H8ClFO2
